US09278954B2
1-Bromo-4-cyclobutylmethoxy-benzene
The mixture of 2.50 g (14.5 mmol) of 4-bromophenol, 2.44 ml (21.7 mmol) of bromomethylcyclobutane and 7.99 g (57.8 mmol) of K2CO3 in 3 ml DMF is stirred at 100° C. over night. The reaction mixture is extracted with water and EtOAc. The organic layer is dried, filtered and the solvent is removed in vacuo.

reactant | 4-bromophenol | 14.5 mmol, 2.50 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | bromomethylcyclobutane | 21.7 mmol, 2.44 ml | BrCC1CCC1 | C5H9Br
reactant | K2CO3 | 57.8 mmol, 7.99 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-Bromo-4-cyclobutylmethoxy-benzene | BrC1=CC=C(C=C1)OCC1CCC1 | C11H13BrO
